US06723722B1
4-(6-Chloronaphthalene-2-sulfonyl)-1-[1-(4-pyridyl)-4-piperidinylideneamino]-2-piperazinone
1-(tert-Butoxycarbonylamino)-4-(6-chloronaphthalene-2-sulfonyl)-2-piperazinone (575 mg) was combined with methanol (4 ml) and a 4N solution of hydrochloric-acid in ethyl acetate (4 ml) and stirred at room temperature for 30 minutes. The reaction mixture was concentrated and the residue obtained was combined with aqueous sodium bicarbonate, extracted with dichloromethane, dried and concentrated to obtain 1-amino-4-(6-chloronaphthalene-2-sulfonyl)-2-piperazinone as a colorless solid. A solution of the resultant 1-amino-4-(6-chloronaphthalene-2-sulfonyl)-2-piperazinone and 1-(4-pyridyl)-4-piperidone (237 mg) in ethanol (30 ml) was dehydrated using a Soxlet extractor packed with molecular sieves 4A while refluxing for 24 hours. The reaction mixture was concentrated and the residue was purified by a column chromatography (dichloromethane: 10% aqueous ammonia-containing methanol=20:1) and crystallized from ether to obtain the title compound (265 mg) as colorless crystals.

reactant | 1-amino-4-(6-chloronaphthalene-2-sulfonyl)-2-piperazinone | NN1C(CN(CC1)S(=O)(=O)C1=CC2=CC=C(C=C2C=C1)Cl)=O | C14H14ClN3O3S
reactant | 1-(4-pyridyl)-4-piperidone | 237 mg | N1=CC=C(C=C1)N1CCC(CC1)=O | C10H12N2O
solvent | ethanol | 30 ml | C(C)O | C2H6O
product | 4-(6-Chloronaphthalene-2-sulfonyl)-1-[1-(4-pyridyl)-4-piperidinylideneamino]-2-piperazinone | 265 mg | ClC=1C=C2C=CC(=CC2=CC1)S(=O)(=O)N1CC(N(CC1)N=C1CCN(CC1)C1=CC=NC=C1)=O | C24H24ClN5O3S
